Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.0779581991
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:9]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.64688789018
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.97274222148
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[H:7],1.38694684851
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-3.57400127
[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.63892889312
[H:1][C:2]=[C:3]([H:4])[H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],-0.722050634959
[H:4].[O:1]=[C:2]=[C:3][O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],-4.029370278380001
[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4]1[O:5][C:6]([H:7])[C:8]1([H:9])[H:10],-0.617387082681
[H:1][C:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9]1>>[H:1][C:2]#[C:3][O:9][C:6]([C:4][H:5])([H:7])[H:8],1.32994165646
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[O:10])[C:12]([O:11])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5]1([H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]1([H:13])[H:14],-1.38618001
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:13]([H:14])([H:15])[H:16],1.803588666
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[O:1]=[C:2]([H:3])[H:4],0.80272243
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8][H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-3.66801542358
[H:1][C:2]=[C:3]([O:4][C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8],1.98126153538
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10],-5.958802779219999
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-0.991167963298
[H:1][C:2]([H:3])[C:4][C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:5][C:7][H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-2.54600605782
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8]>>[C:1].[C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8],5.76161282012
[C:4]([H:5])([H:6])[O:7][H:8].[H:1][C:2]#[C:3][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.05985949792
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])#[C:7][H:8].[H:1][C:2](=[C:3]([H:4])[C:10]([H:11])([H:12])[H:13])[H:9],-1.27041026724
[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])[O:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],0.13957385781
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2],3.23013457171
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.17175016893
[C:1][C:2]#[C:3]>>[C:1].[C:2]#[C:3],8.04010888125
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:6],2.93722271557
[H:1].[O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-4.43048494272
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15],1.91487189032
